data/rdb19/train.csv
rxn,smiles,ea
58,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:20])[H:21].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][H:19],60.01477049587993
4976,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]1([H:4])[C:18]([N:17]([C:16](=[C:15]([H:20])[H:21])[H:22])[H:23])([H:24])[O:19]1)([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][C:6]([H:12])([H:13])[H:14],64.4024892564048
3013,[C:16]([H:17])([H:18])[H:19].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]=[C:7]([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:16]([H:17])([H:18])[H:19],22.70637693148456
4322,[C:16]([C:17]([C:18]([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:18]([C:17]([C:16]([H:26])([H:27])[H:28])([H:29])[H:30])([H:19])[c:20]1[c:21]([H:31])[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]1[H:35].[O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15],51.08040801814059
407,[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])[H:12])([H:11])[H:13])([H:9])[H:10])[H:8],39.23867044423241
2079,[C:11]([H:12])([H:13])[H:14].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:11]([H:12])([H:13])[H:14])([H:6])[H:7],28.774417040956905
1900,[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7].[O:11]([O:12])[H:13]>>[C:2](=[O:3])=[C:4]([C:5]([H:9])([H:10])[O:12][O:11])[H:8].[N:1]([H:6])([H:7])[H:13],34.902394400327466
2983,[C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([C:19]([H:20])[H:21])[C:22](=[O:23])[O:24][H:31])([H:25])([H:26])[H:27].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7][H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][C:19]([C:17]([C:16]([H:25])([H:26])[H:27])([C:18]([H:28])([H:29])[H:30])[C:22](=[O:23])[O:24][H:31])([H:20])[H:21],25.578844201168977
372,[C:4](=[C:5]([c:6]1[c:7]([H:15])[c:8]([H:16])[c:9]([H:17])[c:10]([H:18])[c:11]1[H:19])[H:14])([H:12])[H:13].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:8]1([H:16])[C:7]([H:15])=[C:6]([C:5](=[C:4]([H:12])[H:13])[H:14])[C:11]([H:19])=[C:10]([H:18])[C:9]1[H:17])[H:3],26.69960913527757
5052,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([H:9])([H:10])[C:13]([C:12]([C:11]([H:20])([H:21])[H:22])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:14])[H:15])[H:8])([H:5])([H:6])[H:7],16.74495960585773
1685,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16][c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:25])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],22.996954037051182
2864,[C:16]([O:17][O:18])([H:19])([H:20])[H:21].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:14])([H:15])[O:18][O:17][C:16]([H:19])([H:20])[H:21])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.58162294357317
586,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[S:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[S:12][C:13](=[O:15])[H:17])[H:9])([H:3])([H:4])[H:5].[O:14][H:16],40.73327670939034
17,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:18])([H:19])[H:20])([H:21])[H:22])([C:15]([H:24])([H:25])[H:26])[H:23])([H:6])([H:7])[H:8],72.94976826652419
